US07488823B2
Step F: N-cyano-N′-(3-{4-[3-Methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)guanidine.
A mixture of 2-phenyl-N-cyano-isourea (50 mg, 0.31 mmol) and [6-(3-amino-prop-1-ynyl)-quinazolin-4-yl]-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine (30 mg, 0.076 mmol) in isopropanol (3 mL) was heated at 85° C. in a sealed tube. The reaction was cooled to room temperature after 5 hours. Solvent was removed via rotovap. The residue was then purified by FCC to give the final product (18 mg, 51%) as a light yellow solid. MS ESI (+) m/z 463 (M+1) detected; 1H NMR (400 MHz, deuterated DMSO) □ 9.9 (s, 1H), 8.7 (s, 1H), 8.6 (s, 1H), 8.2 (s, 1H), 7.8 (m, 2H), 7.75 (m, 2H), 7.2 (m, 3H), 7.0 (m, 3H), 4.22 (m, 2H), 2.42 (s, 3H), 2.2 (s, 3H).

reactant | 2-phenyl-N-cyano-isourea | 0.31 mmol, 50 mg | C1(=CC=CC=C1)OC(NC#N)=N | C8H7N3O
reactant | [6-(3-amino-prop-1-ynyl)-quinazolin-4-yl]-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine | 0.076 mmol, 30 mg | NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C24H21N5O
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | N-cyano-N′-(3-{4-[3-Methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)guanidine | 18 mg, 51% | C(#N)NC(=N)NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C26H22N8O
